US04725600
To a suspension of 2-chloro-3,4-dihydro-6-(3,4-dimethoxyphenyl)-3-methyl-4-(2,4,6-trimethylphenylimino)pyrimidine (1.07 g) in ethanol (10 ml) was added piperazine (0.70 g). The mixture was refluxed for 3 hours, cooled to ambient temperature. The mixture was evaporated, and the residue was dissolved in chloroform and washed with aqueous sodium bicarbonate solution. The organic layer was dried over magnesium sulfate and evaporated. The residue was chromatographed on silica gel using a mixture of chloroform and methanol (95:5) to give 3,4-dihydro-6-(3,4-dimethoxyphenyl)-3-methyl-2-(1-piperazinyl)-4-(2,4,6-trimethylphenylimino)pyrimidine (0.69 g).

reactant | 2-chloro-3,4-dihydro-6-(3,4-dimethoxyphenyl)-3-methyl-4-(2,4,6-trimethylphenylimino)pyrimidine | 1.07 g | ClC1=NC(=CC(N1C)=NC1=C(C=C(C=C1C)C)C)C1=CC(=C(C=C1)OC)OC | C22H24ClN3O2
reactant | piperazine | 0.70 g | N1CCNCC1 | C4H10N2
solvent | ethanol | 10 ml | C(C)O | C2H6O
product | 3,4-dihydro-6-(3,4-dimethoxyphenyl)-3-methyl-2-(1-piperazinyl)-4-(2,4,6-trimethylphenylimino)pyrimidine | 0.69 g | COC=1C=C(C=CC1OC)C1=CC(N(C(=N1)N1CCNCC1)C)=NC1=C(C=C(C=C1C)C)C | C26H33N5O2
